US09035059B2
Isopropanol (60 mL) was added to PEPPSI™-IPr catalyst (161 mg, 0.24 mmol) and tert-butoxy potassium (2.65 g, 23.6 mmol) under an argon atmosphere, and the mixture was stirred at room temperature for 15 min. To the reaction mixture were added trans-(2-cyclohexylvinyl)boronic acid (2.00 g, 13.0 mmol) and 4-bromo-2-fluoroaniline (2.24 g, 11.8 mmol) successively and the mixture was stirred at room temperature for 15 hr. Water was added thereto, the mixture was extracted with ethyl acetate, and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure to afford 4-[(E)-2-cyclohexylethenyl]-2-fluoroaniline as a reddish brown oil (2.58 g).

reactant | Isopropanol | 60 mL | C(C)(C)O | C3H8O
reactant | tert-butoxy potassium | 23.6 mmol, 2.65 g | C(C)(C)(C)O[K]
reactant | trans-(2-cyclohexylvinyl)boronic acid | 13.0 mmol, 2.00 g | C1(CCCCC1)/C=C/B(O)O | C8H15BO2
reactant | 4-bromo-2-fluoroaniline | 11.8 mmol, 2.24 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
catalyst | IPr | 0.24 mmol, 161 mg | ICCC | C3H7I
solvent | Water | O | H2O
product | 4-[(E)-2-cyclohexylethenyl]-2-fluoroaniline | 2.58 g | C1(CCCCC1)/C=C/C1=CC(=C(N)C=C1)F | C14H18FN
